US06303618B1
6-Allyloxy-2-chloropurine (NU2051)
Sodium (0.37 g, 15.9 mmol) was reacted with allyl alcohol (20 ml) under nitrogen with cooling in an ice bath. 2,6-Dichloropurine (1.00 g, 5.29 mmol) was added and the reaction was refluxed for 2 h, after which time the reaction mixture was allowed to cool. The mixture was neutralised with glacial acetic acid and the solvent was removed. The residue was triturated with cold water to yield the title compound as a white solid (1.05 g, 94%), m.p. 208-209° C.; νmax (cm−1) 3422,3017, 2782, 2685, 2595 (NH, C—H); δH (200 MHz, d6-DMSO) 8.454 (1H, s, C(8)H), 6.230-6.036 (1H, m, CH2CH═CH2), 5.478 (1H, dd, J=1.6 Hz, J=17.2 Hz, CH2CH═CH2), 5.327 (1H, dd, J=1.6 Hz, J=10.4 Hz, CN2CH═CH2), 5.054 (2H, d, J=5.5 Hz, CH2CH═CH2); m/z 210 (M+, 68%), 195 (64), 183 (12), 175 ([M—Cl]+, 98%), 154 ([MH—OCH2CH═CH2]+, 21%), 135 ([MH—Cl—CH2CH═CH2]+, 50%), 119 ([MH—Cl—OCH2CH═CH2]+, 33%), 92 (12), 53 (18), 41 ([CH2CH═CH2]+, 100%), 32 (53).

reactant | Sodium | 15.9 mmol, 0.37 g | [Na] | Na
reactant | allyl alcohol | 20 ml | C(C=C)O | C3H6O
reactant | 2,6-Dichloropurine | 5.29 mmol, 1.00 g | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-Allyloxy-2-chloropurine | 1.05 g, 94% | C(C=C)OC1=C2NC=NC2=NC(=N1)Cl | C8H7ClN4O
